US04192890
A solution of 68 g of p-chlorobromobenzene in 150 cc of ether was added under an inert atmosphere to 250 cc of a solution of 1.4 N butyl lithium in hexane cooled to -20° C. and after stirring for 2 hours, the temperature was allowed to rise to room temperature. A solution of 28.6 g of 3-cyano-2-methylbenzoic acid in 300 cc of tetrahydrofuran was added to the solution of the lithium compound cooled to -60° C. and then the temperature was allowed to return to room temperature and remain there overnight. The reaction mixture was added to a water-ice mixture and made acidic by addition of hydrochloric acid. The mixture was heated at 70°-80° C. for 3 hours and the tetrahydrofuran was distilled off. After cooling, the mixture was extracted with ether and the ether phase was washed with water, dried over magnesium sulfate and concentrated. The residue was empasted with isopropyl ether, vacuum filtered and dried. The residue was crystallized from methanol, and dissolved in methanol and treated with activated carbon, concentrated and allowed to crystallize to obtain 10.3 g of 3-p-chlorobenzoyl-2-methyl-benzoic acid melting at 206° C. A second crop of 4.3 g of product was obtained by crystallization of the mother liquors.

reactant | p-chlorobromobenzene | 68 g | ClC1=CC=C(C=C1)Br | C6H4BrCl
reactant | butyl lithium | 1.4 N | C(CCC)[Li]
reactant | 3-cyano-2-methylbenzoic acid | 28.6 g | C(#N)C=1C(=C(C(=O)O)C=CC1)C | C9H7NO2
reactant | lithium | [Li] | Li
reactant | hydrochloric acid | Cl | ClH
reactant | ether | 150 cc | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 300 cc | O1CCCC1 | C4H8O
product | 3-p-chlorobenzoyl-2-methyl-benzoic acid | 10.3 g | ClC1=CC=C(C(=O)C=2C(=C(C(=O)O)C=CC2)C)C=C1 | C15H11ClO3
